2100-12-12 08:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2100-12-11**] 11:02 AM
 TRANSTHORACIC ECHO - At [**2100-12-11**] 01:05 PM
   Lasix gtt off now
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2100-12-11**] 03:00 AM
   Piperacillin - [**2100-12-11**] 04:19 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2100-12-11**] 02:37 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-12-12**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 131 (104 - 138) bpm
   BP: 89/57(66) {76/45(46) - 108/74(82)} mmHg
   RR: 27 (5 - 27) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    819 mL
                                                                     80 mL
   PO:
             TF:
   IVF:
                                                                    819 mL
                                                                     80 mL
   Blood products:
   Total out:
                                                                  1,020 mL
                                                                    215 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -201 mL
                                                                   -135 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///31/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   98 mg/dL
   3.8 mg/dL
   31 mEq/L
   4.9 mEq/L
   113 mg/dL
   98 mEq/L
   138 mEq/L
        [image002.jpg]
                            [**2100-12-11**]  03:53 AM
                            [**2100-12-11**]  03:15 PM
   Cr
   3.8
   TCO2
   35
   Glucose
   98
   Other labs: ALT / AST:[**11-4**], Alk Phos / T Bili:89/0.8, Lactic Acid:1.0
   mmol/L, Albumin:3.2 g/dL, LDH:147 IU/L, Ca++:9.0 mg/dL, Mg++:2.7 mg/dL,
   PO4:7.0 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 TACHYCARDIA, OTHER
 IMPAIRED SKIN INTEGRITY
 CIRRHOSIS OF LIVER, ALCOHOLIC
   55M with history of Afib, cardiomyopathy, presenting with anasarca and
   shortness of breath with plan for initiation of hemodialysis.
   # Respiratory distress/hypoxemia.  Multifactorial with major
   contribution of volume overload/pulmonary edema plus left sided
   consolidation (which may be asymmetric edema vs. pneumonia/infectious
   consolidation; also may be layering effusion).  Also may have component
   of COPD flare/reactive airways, though no current wheezing on exam.
   Consider PE given tachycardia and immobility.  Also with some
   restrictive component with large abdomen/ascites.Does not appear
   particularly distressed at the moment and O2 sats >95% on nasal
   cannula.  However, ABG with elevated pCO2.  Refusing intubation and
   BiPap.
   - Remove volume - start lasix gtt (goal negative as much as BP
   tolerates); consideration for HD as early as today.
   - Will discuss with renal and/or IR re: line placement for possible HD,
   ?timing.
   - TTE.
   - Continue antibiotics for HAP - vanc and zosyn; attempt sputum
   sample.  Consider bronch to further evaluate left side if persists
   after diuresis.
   - Paracentesis - therapeutic.
   - Nebs ATC and prn for wheezing.
   - Retry bipap if will tolerate.
   - Lower delivered O2 to achieve goal sat 90-93%.
   # Anasarca.  Patient with RV, ?LV failure, cirrhosis, worsening renal
   failure.  Needs volume removal via diuresis or HD.
   - f/u renal recs as above.
   - lasix gtt.
   # Tachycardia/Afib. Seems to be somewhat difficult to rate control at
   baseline (limited by BP) but notes suggest slightly worse lateley.  [**Month (only) 8**]
   be related to intravascular shifts with attempts at diuresis/inability
   to mobilize third space fluids, or related to current pulmonary
   disease.
   - Redose digoxin today.
   - COntinue PO metoprolol QID.
   - will eval for VTE with TTE and LENIs and UENI, consider further eval
   if suspicion for PE still exists.
   - Hold coumadin for now given planned procedures.
   # Acute renal failure. Baseline prior to one month ago unknown, but has
   been in the 3s for at least the last few weeks.  Nature of chronic
   insufficiency unclear.  Volume overloaded currently.
   - UA and lytes.
   - Consider renal ultrasound.
   - renal to see.
   # Acute on chronic respiratory acidosis.  Refuses bipap and
   intubation.  COPD vs. mental status.  Unclear if Co2 retention also
   contributing to mental status.
   - Nebs ATC, consider steroids if more evidence of wheezing.
   - Improve mental status with lactulose/rifaximin and ?dialysis.
   # Altered mental status.  Differential includes hypercarbia, hepatic
   encephalopathy, uremia, infection.
   - lactulose/rifaximin.
   - ?dialysis
   - NGT if not safely taking PO.
   # Congestive heart failure.  Documented RV failure without known status
   of LV.  Has signs of chronic RV failure on exam.
   - diuresis as above.
   - continue BB and digoxin.
   - TTE.
   # Cirrhosis.  Documented as EtOH related.  Also consider some element
   of RV failure ?cardiac ascites.
   - f/u OSH records (recent liver biopsy).
   - rifaximin and lactulose.
   - LVP for comfort, rule out infection.
   # Anemia.  Episodes of guiaic pos stool and Hct drops, leading to
   transfusion at rehab.
   - Hold coumadin for now given upcoming procedures.
   - Discussion re: timing of GI workup and risks/benefits of
   anticoagulating.
   # Leg edema/rash. ?hyperkeratosis from lymphedema.  Unclear how much
   infection is playing a role.  Large ulcer with good granulation tissue,
   no evidence of surrounding infection.
   - continue to monitor site.
   - wound care consult.
   FEN: No IVF, replete electrolytes, regular diet if mental status
   allows.
   Prophylaxis: Subutaneous heparin
   Access: peripherals
   Code:  DNR/DNI
   Communication: Patient, sister [**Name (NI) 412**] [**Telephone/Fax (1) 10047**]
   [**Name2 (NI) **]osition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2100-12-11**] 02:57 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2100-12-14 06:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Hypercarbic respiratory failure
   24 Hour Events:
 PICC LINE - START [**2100-12-13**] 07:02 PM
 ARTERIAL LINE - START [**2100-12-14**] 02:40 AM
   Stably hypercarbic:
   - 3am: 7.15/96/79/35
   - 6:45am: 7.13/100/82/35
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2100-12-11**] 04:19 PM
   Ciprofloxacin - [**2100-12-13**] 08:45 PM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2100-12-13**] 08:20 PM
   Heparin Sodium (Prophylaxis) - [**2100-12-13**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-12-14**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.3
   Tcurrent: 35.4
C (95.8
   HR: 98 (95 - 144) bpm
   BP: 105/62(71) {96/38(60) - 124/94(98)} mmHg
   RR: 20 (15 - 25) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    360 mL
                                                                    102 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                    240 mL
                                                                    102 mL
   Blood products:
   Total out:
                                                                    179 mL
                                                                     40 mL
   Urine:
                                                                    149 mL
                                                                     40 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                    181 mL
                                                                     62 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 92%
   ABG: 7.15/95.[**Numeric Identifier 253**]/78.[**Numeric Identifier 7**]/30/1
   PaO2 / FiO2: 79
   Physical Examination
   Lying in bed somnolent but easily arousable, oriented x3 on
   questioning.  Right eye injected, PERRL.  RRR with a systolic murmur.
   Lungs clear on anterior exam.  Abdomen massively distended and
   protuberant but not rigid or tender.  LE edematous with signs of
   lymphedema.
   Labs / Radiology
   257 K/uL
   9.1 g/dL
   119 mg/dL
   4.1 mg/dL
   30 mEq/L
   5.3 mEq/L
   111 mg/dL
   97 mEq/L
   136 mEq/L
   29.2 %
   9.3 K/uL
        [image002.jpg]
                            [**2100-12-11**]  03:53 AM
                            [**2100-12-11**]  03:15 PM
                            [**2100-12-13**]  07:08 PM
                            [**2100-12-13**]  07:31 PM
                            [**2100-12-13**]  08:21 PM
                            [**2100-12-14**]  02:57 AM
                            [**2100-12-14**]  04:51 AM
   WBC
   8.5
   9.3
   Hct
   29.6
   32
   29.2
   Plt
   224
   257
   Cr
   3.8
   3.9
   4.1
   TCO2
   35
   38
   39
   35
   Glucose
   98
   128
   119
   Other labs: PT / PTT / INR:23.7/39.1/2.2, ALT / AST:[**11-4**], Alk Phos / T
   Bili:89/0.8, Differential-Neuts:77.0 %, Lymph:10.5 %, Mono:5.6 %,
   Eos:6.5 %, Lactic Acid:0.8 mmol/L, Albumin:3.2 g/dL, LDH:147 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.8 mg/dL, PO4:7.6 mg/dL
   Imaging: [**12-13**] CXR: Little change from prior study. unchanged
   cardiomegaly and pulmonary edema
   Microbiology: [**12-11**] Urine Cx: >100,000 Enterobacter cloacae.
   [**12-11**] Blood cx: pending.
   [**12-11**] Flu DFA: negative
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 TACHYCARDIA, OTHER
 IMPAIRED SKIN INTEGRITY
 CIRRHOSIS OF LIVER, ALCOHOLIC
   55M with history of Afib, cardiomyopathy, presenting with anasarca and
   shortness of breath with plan for initiation of hemodialysis;
   encephalopathy now improving with transition from goals of care from
   CMO to DNR/DNI but HD okay per patient wishes.
   .
   # Acute on chronic respiratory acidosis.  Unclear baseline - to what
   degree acidemia is due to acute hypoventilation vs. worsening of
   metabolic acidosis.  Patient likely hypoventilating at least in part
   due to reduced lung volumes due to worsening ascites.  [**Month (only) 8**] also be
   worsened by improved O2 sats.  Otherwise, acute component may be due to
   COPD vs. altered mental status.  Refuses bipap and intubation.  Unclear
   if Co2 retention also contributing to mental status.
   - A line placed, follow serial ABGs.
   - Will do therapeutic paracentesis today, which should allow larger
   lung volumes.
   - Nebs prn to reduce obstructive component.
   - Improve mental status with lactulose/rifaximin
   - Aim for O2 sats in the 90 to 92 range.
   .
   # Respiratory distress/hypoxemia.  Improved this morning as hypoxemia
   seems to have improved, though the patient seems to need to remain
   sitting up.  Hypoxemia likely mostly volume overload/pulmonary edema
   plus left sided consolidation (which may be asymmetric edema vs.
   pneumonia/infectious consolidation; also may be layering effusion).  We
   were unsuccessful in removing fluid with a lasix drip, and needs line
   placement to begin CVVH and fluid removal.  He is in a very tenuous
   position for lying flat and having the line placed by IR, especially
   given his wish to not be intubated.  We would prefer bed-side placement
   of a temporary catheter to improve his respiratory status before a more
   permanent tunneled line is placed by IR.
   - Bedside dialysis line placement by our team or renal.  Will need FFP
   prior to procedure.
   - Continue to hold off on antibiotics except for cipro as below.
   - Therapeutic paracentesis today.
   - Nebs prn for wheezing.
   - Retry bipap if will tolerate.
   - Lower delivered O2 to achieve goal sat 90-93%.
   .
   # Tachycardia/Afib. Seems to be somewhat difficult to rate control at
   baseline (limited by BP) but notes suggest slightly worse lateley.  [**Month (only) 8**]
   be related to intravascular shifts with attempts at diuresis/inability
   to mobilize third space fluids, or related to current pulmonary
   disease.
   - As has only received single dose of digoxin recently, will half-load
   with 0.5 mg IV x 1 now.
   - Patient is struggling to take all of his pills PO (can take limited
   amount) so we can give lopressor IV if unable to take PO dose.
   - Hold coumadin for now given planned procedures.  Will need FFP prior
   to line placement.
   .
   # UTI.  Growing cipro-sensitive enterobacter from urine culture.
   - Ciprofloxacin x 7 day course, today day 2.
   .
   # Acute renal failure. Baseline prior to one month ago unknown, but has
   been in the 3s for at least the last few weeks.  Nature of chronic
   insufficiency unclear.  Volume overloaded currently.
   - initiation of HD; f/u renal recs.
   .
   # Altered mental status.  Differential includes hypercarbia, hepatic
   encephalopathy, uremia, infection.
   - lactulose/rifaximin.
   - dialysis
   - NGT if not safely taking PO and patient amenable.
   .
   # Congestive heart failure.  Documented RV failure with normal LV.  Has
   signs of chronic RV failure on exam.
   - diuresis as above.
   - continue BB and digoxin.
   .
   # Cirrhosis.  Documented as EtOH related.  Also consider some element
   of RV failure ?cardiac ascites.
   - obtain OSH records (recent liver biopsy).
   - rifaximin and lactulose.
   - LVP for comfort, rule out infection.
   .
   # Anemia.  Episodes of guiaic pos stool and Hct drops, leading to
   transfusion at rehab.  HCt stable here.
   - Hold coumadin for now given upcoming procedures.
   - cannot receive Aranesp as inpatient, can consider Procrit if needed.
   .
   # Leg edema/rash. Appears to be hyperkeratosis from lymphedema.
   Unclear how much infection is playing a role.  Large ulcer with good
   granulation tissue, no evidence of surrounding infection.
   - continue to monitor site.
   - wound care following.
   .
   FEN: No IVF, replete electrolytes, regular diet if mental status
   allows.  [**Month (only) 8**] need to consider NG tube placement until mental status
   hopefully improves with dialysis.  Need to discuss with patient.
   Prophylaxis: Subutaneous heparin, bowel regimen, PPI
   Access: PICC, a-line, peripherals
   Code:  DNR/DNI - confirmed with patient, who is quite clear about these
   wishes.
   Communication: Patient, sister [**Name (NI) 412**] [**Telephone/Fax (1) 10047**]
   [**Name2 (NI) **]osition: pending clinical improvement

2100-12-14 10:54:00 Physician Attending Progress Note
Chief Complaint: Renal failure and respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   55 yo man with severe CHF, cirrhosis, COPD, chronic hypercarbia, AFib
   on coumadin,  lives in [**Location **].  Admitted last week with decreased mental
   status and renal failure (acute on chronic).  Family made him CMO.
   Went to floor where he woke up more.  He decided that he did want
   dialysis.  So came back to MICU for further management.    lasix drip
   was tried and it did not work.  Unable to tolerate BIPAP.
   After discussion here - patient said that he did not want to be
   intubated.
   24 Hour Events:
 PICC LINE - START [**2100-12-13**] 07:02 PM
 ARTERIAL LINE - START [**2100-12-14**] 02:40 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2100-12-11**] 04:19 PM
   Ciprofloxacin - [**2100-12-13**] 08:45 PM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2100-12-13**] 08:20 PM
   Heparin Sodium (Prophylaxis) - [**2100-12-14**] 09:00 AM
   Other medications:
   vitamin K
   digoxin
   heparin s/q
   refusing MVI/vitamin D/renajel/colace
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-12-14**] 10:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.3
   Tcurrent: 35.3
C (95.6
   HR: 111 (95 - 144) bpm
   BP: 105/62(71) {96/38(60) - 124/94(98)} mmHg
   RR: 23 (15 - 25) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    360 mL
                                                                    158 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                    240 mL
                                                                    158 mL
   Blood products:
   Total out:
                                                                    179 mL
                                                                     70 mL
   Urine:
                                                                    149 mL
                                                                     70 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                    181 mL
                                                                     88 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 94%
   ABG: 7.13/99.[**Numeric Identifier **]/81.[**Numeric Identifier **]/30/0
   PaO2 / FiO2: 164
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Oriented (to): year and place, Movement: Not assessed, Tone: Not
   assessed, somnolent
   Labs / Radiology
   9.1 g/dL
   257 K/uL
   119 mg/dL
   4.1 mg/dL
   30 mEq/L
   5.3 mEq/L
   111 mg/dL
   97 mEq/L
   136 mEq/L
   29.2 %
   9.3 K/uL
        [image002.jpg]
                            [**2100-12-11**]  03:53 AM
                            [**2100-12-11**]  03:15 PM
                            [**2100-12-13**]  07:08 PM
                            [**2100-12-13**]  07:31 PM
                            [**2100-12-13**]  08:21 PM
                            [**2100-12-14**]  02:57 AM
                            [**2100-12-14**]  04:51 AM
                            [**2100-12-14**]  06:44 AM
   WBC
   8.5
   9.3
   Hct
   29.6
   32
   29.2
   Plt
   224
   257
   Cr
   3.8
   3.9
   4.1
   TCO2
   35
   38
   39
   35
   35
   Glucose
   98
   128
   119
   Other labs: PT / PTT / INR:23.7/39.1/2.2, ALT / AST:[**11-4**], Alk Phos / T
   Bili:89/0.8, Differential-Neuts:77.0 %, Lymph:10.5 %, Mono:5.6 %,
   Eos:6.5 %, Lactic Acid:0.8 mmol/L, Albumin:3.2 g/dL, LDH:147 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.8 mg/dL, PO4:7.6 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 TACHYCARDIA, OTHER
 IMPAIRED SKIN INTEGRITY
 CIRRHOSIS OF LIVER, ALCOHOLIC
   Respiratory failure:  Acute on chronic respiratory failure.
   Getting volume off is likely to help.
   Patient asked if he would want a breathing tube if he gets worse and he
   says that he would not want one under any circumstances.
   Acute on chronic renal failure:  will need HD.  He is very marginal,
   and may not tolerate going to IR to get tunneled line placed.  Would
   prefer
   to put in a bedside line temporarily and start HD here.  Will need FFP
   for procedure.
   Anasarca:  consider also paracentesis.
   tachycardia/AF:  Is extremely fluid overloaded with severe RV failure
   that is likely culprit.  Continue dig qod.
   UTI:  continue cipro.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2100-12-13**] 07:02 PM
   Arterial Line - [**2100-12-14**] 02:40 AM
   Prophylaxis:
   DVT:
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2100-12-15 13:36:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   55 yo man with severe RV failure, cirrhosis, respiratory failure.
   24 Hour Events:
 DIALYSIS CATHETER - START [**2100-12-14**] 01:26 PM
 PARACENTESIS - At [**2100-12-14**] 01:45 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2100-12-15**] 11:00 AM
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2100-12-15**] 12:50 AM
   Other medications:
   MVI
   vitamin D
   sevelamer
   lactulose
   digoxin
   heparin tid
   cipro
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-12-15**] 01:36 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37
C (98.6
   HR: 117 (99 - 125) bpm
   BP: 105/62(71) {0/0(0) - 0/0(0)} mmHg
   RR: 18 (17 - 28) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 71 Inch
             Total In:
                                                                  1,893 mL
                                                                  1,340 mL
   PO:
                                                                    100 mL
             TF:
   IVF:
                                                                    962 mL
                                                                  1,340 mL
   Blood products:
                                                                    831 mL
   Total out:
                                                                  7,528 mL
                                                                  2,606 mL
   Urine:
                                                                    118 mL
   NG:
   Stool:
   Drains:
                                                                  6,040 mL
   Balance:
                                                                 -5,635 mL
                                                                 -1,266 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 93%
   ABG: 7.17/81.[**Numeric Identifier 252**]/103/26/-1
   PaO2 / FiO2: 258
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   236 K/uL
   86 mg/dL
   3.6 mg/dL
   26 mEq/L
   5.2 mEq/L
   87 mg/dL
   101 mEq/L
   137 mEq/L
   27.4 %
   10.7 K/uL
        [image002.jpg]
                            [**2100-12-14**]  06:44 AM
                            [**2100-12-14**]  04:47 PM
                            [**2100-12-14**]  06:02 PM
                            [**2100-12-14**]  08:26 PM
                            [**2100-12-14**]  08:41 PM
                            [**2100-12-14**]  09:33 PM
                            [**2100-12-15**]  02:50 AM
                            [**2100-12-15**]  03:01 AM
                            [**2100-12-15**]  09:53 AM
                            [**2100-12-15**]  10:09 AM
   WBC
   6.2
   10.7
   Hct
   27.1
   27.4
   Plt
   186
   236
   Cr
   4.5
   4.2
   3.8
   3.6
   TCO2
   35
   36
   32
   33
   31
   Glucose
   105
   116
   90
   86
   Other labs: PT / PTT / INR:18.0/36.4/1.6, ALT / AST:[**11-4**], Alk Phos / T
   Bili:89/0.8, Differential-Neuts:77.0 %, Lymph:10.5 %, Mono:5.6 %,
   Eos:6.5 %, Lactic Acid:1.2 mmol/L, Albumin:3.2 g/dL, LDH:147 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.6 mg/dL, PO4:6.2 mg/dL
   Microbiology: urine cx:  enterobacter sensitive to cipro
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 TACHYCARDIA, OTHER
 IMPAIRED SKIN INTEGRITY
 CIRRHOSIS OF LIVER, ALCOHOLIC
   Respiratory failure:  improved today, more awake.  More alert.  Will
   continue to remove fluid with CVVH.
   ESRD
   cirrhosis/ascites:  if gets worse can tap again.
   UTI:  on cipro
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2100-12-13**] 07:02 PM
   Arterial Line - [**2100-12-14**] 02:40 AM
   Dialysis Catheter - [**2100-12-14**] 01:26 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2100-12-16 10:37:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   55 yo man with severe RV failure, chronic respiratory failure,
   cirrhosis, chronic renal failure.  Respiratory distress last night,
   removed 8L of ascitic fluid with some improvement.   This morning much
   improved
   with decreased dyspnea
   24 Hour Events:
 PARACENTESIS - At [**2100-12-15**] 04:24 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2100-12-16**] 09:00 AM
   Infusions:
   Phenylephrine - 1.5 mcg/Kg/min
   Heparin Sodium - 1,600 units/hour
   Other ICU medications:
   Other medications:
   cipro
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-12-16**] 10:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (97
   HR: 120 (103 - 133) bpm
   BP: 100/50(66) {88/38(55) - 101/50(67)} mmHg
   RR: 24 (16 - 30) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 126 kg (admission): 139 kg
   Height: 71 Inch
             Total In:
                                                                  2,296 mL
                                                                    813 mL
   PO:
             TF:
   IVF:
                                                                  2,146 mL
                                                                    813 mL
   Blood products:
                                                                    150 mL
   Total out:
                                                                 12,006 mL
                                                                  3,923 mL
   Urine:
                                                                    100 mL
                                                                     25 mL
   NG:
   Stool:
   Drains:
                                                                  8,000 mL
   Balance:
                                                                 -9,710 mL
                                                                 -3,110 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 92%
   ABG: 7.20/67/50/26/-2
   PaO2 / FiO2: 143
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   215 K/uL
   92 mg/dL
   3.2 mg/dL
   26 mEq/L
   4.8 mEq/L
   73 mg/dL
   103 mEq/L
   138 mEq/L
   28.5 %
   10.0 K/uL
        [image002.jpg]
                            [**2100-12-15**]  10:09 AM
                            [**2100-12-15**]  03:59 PM
                            [**2100-12-15**]  04:05 PM
                            [**2100-12-15**]  05:41 PM
                            [**2100-12-15**]  08:42 PM
                            [**2100-12-16**]  01:59 AM
                            [**2100-12-16**]  02:06 AM
                            [**2100-12-16**]  06:14 AM
                            [**2100-12-16**]  08:57 AM
                            [**2100-12-16**]  09:19 AM
   WBC
   15.5
   12.5
   10.0
   Hct
   29.1
   30.3
   28.5
   Plt
   [**Telephone/Fax (3) 10172**]
   Cr
   3.7
   3.2
   TCO2
   31
   30
   31
   31
   30
   30
   27
   Glucose
   105
   92
   Other labs: PT / PTT / INR:17.5/52.6/1.6, ALT / AST:[**11-4**], Alk Phos / T
   Bili:89/0.8, Differential-Neuts:77.0 %, Lymph:10.5 %, Mono:5.6 %,
   Eos:6.5 %, Lactic Acid:1.4 mmol/L, Albumin:3.6 g/dL, LDH:147 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.5 mg/dL, PO4:5.5 mg/dL
   Microbiology: urine with enterobacter S to cipro
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 TACHYCARDIA, OTHER
 IMPAIRED SKIN INTEGRITY
 CIRRHOSIS OF LIVER, ALCOHOLIC
   respiratory failure:  Improved with removal of fluid with CVVH and
   paracentesis.  Looks much improved today.  Continue fluid removal.
   tachycardia:  continued AFib with high rate, digoxin level of 1.9.  is
   on neosynephrine for pressor support.  Hesitant to add beta-blocker
   or calcium channel blocker has HOTN would be big setback.  Will just
   watch for now.
   acute on chonic renal failure
   cirrhosis
   acute on chronic systolic RV failure.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2100-12-13**] 07:02 PM
   Arterial Line - [**2100-12-14**] 02:40 AM
   Dialysis Catheter - [**2100-12-14**] 01:26 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2100-12-17 12:26:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   55 yo man with severe RV failure, chronic respiratory failure,
   cirrhosis, renal failure.  Much improved.
   Continues on CVVH
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2100-12-17**] 09:00 AM
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Heparin Sodium - 1,700 units/hour
   Other ICU medications:
   Other medications:
   cipro
   MVI
   spiriva
   vitamin D
   omeprazole
   advair
   sevalemer
   lactulose
   rifaxamin
   digoxin
   heparin IV
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-12-17**] 12:26 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.3
C (95.6
   HR: 98 (88 - 127) bpm
   BP: 102/46(62) {82/38(55) - 129/66(85)} mmHg
   RR: 15 (15 - 25) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 113 kg (admission): 139 kg
   Height: 71 Inch
             Total In:
                                                                  2,272 mL
                                                                  1,388 mL
   PO:
             TF:
   IVF:
                                                                  2,272 mL
                                                                  1,388 mL
   Blood products:
   Total out:
                                                                  9,744 mL
                                                                  5,928 mL
   Urine:
                                                                     65 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -7,472 mL
                                                                 -4,540 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.24/64/87.[**Numeric Identifier 7**]/25/-1
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Bronchial: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   171 K/uL
   81 mg/dL
   2.3 mg/dL
   25 mEq/L
   4.3 mEq/L
   44 mg/dL
   99 mEq/L
   136 mEq/L
   29.1 %
   8.4 K/uL
        [image002.jpg]
                            [**2100-12-16**]  01:59 AM
                            [**2100-12-16**]  02:06 AM
                            [**2100-12-16**]  06:14 AM
                            [**2100-12-16**]  08:57 AM
                            [**2100-12-16**]  09:19 AM
                            [**2100-12-16**]  03:01 PM
                            [**2100-12-16**]  03:10 PM
                            [**2100-12-17**]  04:07 AM
                            [**2100-12-17**]  04:16 AM
                            [**2100-12-17**]  10:43 AM
   WBC
   12.5
   10.0
   8.4
   Hct
   30.3
   28.5
   29.1
   Plt
   230
   215
   171
   Cr
   3.2
   3.0
   2.3
   TCO2
   30
   30
   27
   27
   29
   29
   Glucose
   92
   75
   76
   81
   Other labs: PT / PTT / INR:15.9/74.1/1.4, ALT / AST:[**11-4**], Alk Phos / T
   Bili:89/0.8, Differential-Neuts:77.0 %, Lymph:10.5 %, Mono:5.6 %,
   Eos:6.5 %, Lactic Acid:1.4 mmol/L, Albumin:3.6 g/dL, LDH:147 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 TACHYCARDIA, OTHER
 IMPAIRED SKIN INTEGRITY
 CIRRHOSIS OF LIVER, ALCOHOLIC
   Respiratory failure:  marked improvement.  He is probably at his
   optimal pCO2.
   AF:  HR better controlled with improvement of overall function and BP.
   Continue Dig.
   ARF:  Continue CVVH
   UTI:  on cipro
   Cirrhosis:  continue
   Filter is due to change tomorrow.  Will hold heparin at that time and
   place dobhoff.
   Will try dysphagia diet today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2100-12-13**] 07:02 PM
   Arterial Line - [**2100-12-14**] 02:40 AM
   Dialysis Catheter - [**2100-12-14**] 01:26 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2100-12-18 14:27:00 Physician Attending Progress Note
Chief Complaint: Hypercapnic respiratory failure, chronic renal
   failure, systolic heart failure (chronic).
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient's CVVH was stopped because line clotted. Heparin restarted.
   CVVH restarted at lower rate of fluid removal. Fluid balance negative
   9L yesterday.
   Afebrile.
   This morning HR increased to 140s. ABG's are stable with pH>7.30 and
   good oxygenation.
   Continues on phenylephrine.
   Patient denies pain and shortness of breath.
   24 Hour Events:
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2100-12-18**] 08:30 AM
   Infusions:
   Phenylephrine - 0.8 mcg/Kg/min
   Heparin Sodium - 1,800 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2100-12-18**] 08:57 AM
   Other medications:
   Colace, dig, rifaxamin, vit D, atrovent
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-12-18**] 02:27 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.9
   HR: 114 (96 - 127) bpm
   BP: 105/47(66) {85/29(48) - 116/71(79)} mmHg
   RR: 18 (10 - 29) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 113 kg (admission): 139 kg
   Height: 71 Inch
             Total In:
                                                                  3,216 mL
                                                                  1,453 mL
   PO:
                                                                    440 mL
                                                                    230 mL
   TF:
   IVF:
                                                                  2,776 mL
                                                                  1,223 mL
   Blood products:
   Total out:
                                                                 12,404 mL
                                                                  3,235 mL
   Urine:
                                                                    130 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -9,188 mL
                                                                 -1,782 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.31/58/86.[**Numeric Identifier 253**]/29/0
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, Distant, Loud, No(t) Widely split , No(t) Fixed),
   No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t) Diastolic),
   II/VI high pitched at suprasteral notch.
   I-II/VI systolic murmur at apex.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , Obese
   Extremities: Right lower extremity edema: 3+ edema, Left lower
   extremity edema: 3+, Chronic venous stasis changes
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Not assessed
   Labs / Radiology
   9.3 g/dL
   173 K/uL
   147 mg/dL
   2.4 mg/dL
   29 mEq/L
   3.9 mEq/L
   32 mg/dL
   97 mEq/L
   132 mEq/L
   29.3 %
   11.0 K/uL
        [image002.jpg]
                            [**2100-12-17**]  04:07 AM
                            [**2100-12-17**]  04:16 AM
                            [**2100-12-17**]  10:43 AM
                            [**2100-12-17**]  04:13 PM
                            [**2100-12-17**]  09:25 PM
                            [**2100-12-17**]  09:36 PM
                            [**2100-12-18**]  03:30 AM
                            [**2100-12-18**]  03:46 AM
                            [**2100-12-18**]  11:57 AM
                            [**2100-12-18**]  12:19 PM
   WBC
   8.4
   11.0
   Hct
   29.1
   29.3
   Plt
   171
   173
   Cr
   2.3
   2.0
   1.9
   2.4
   TCO2
   29
   29
   30
   31
   31
   Glucose
   81
   81
   83
   113
   147
   Other labs: PT / PTT / INR:16.5/50.2/1.5, ALT / AST:[**11-4**], Alk Phos / T
   Bili:89/0.8, Differential-Neuts:77.0 %, Lymph:10.5 %, Mono:5.6 %,
   Eos:6.5 %, Lactic Acid:1.4 mmol/L, Albumin:3.6 g/dL, LDH:147 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 TACHYCARDIA, OTHER
 IMPAIRED SKIN INTEGRITY
 CIRRHOSIS OF LIVER, ALCOHOLIC
   HEART FAILURE, SYSTOLIC, CHRONIC
   =================================
   Patient with more tachycardia this morning; ECG without acute ischemic
   changes. Still in afib. I suspect that patient may have had more fluid
   removed yesterday than he could mobilize from the interstitial space
   and, consequently, had gotten intravascular volume depletion. Will give
   fluid back now and reassess. [**Month (only) 8**] need some calcium blockade if fluids
   do not assist in slowing rate.
   ABG's show good oxygenation and stable chronic respiratory acidosis.
   Creat up slightly today; possibly related to intravascular volume
   depletion. Continue to monitor. Electrolytes acceptable.
   Hct stable. Not at transfusion threshold.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2100-12-13**] 07:02 PM
   Arterial Line - [**2100-12-14**] 02:40 AM
   Dialysis Catheter - [**2100-12-14**] 01:26 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35
   Patient is critically ill

2100-12-19 12:08:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress, tachycardia, CHF, hypotension,
   renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Tachycardia slowed with fluid boluses yesterday. RRT slowed during the
   day.
   Afebrile.
   PaCO2 up this AM compared to yesterday. More lethargic today.
   WBC down slightly.
   Creat has risen over the past several days; may be plateuing in past 24
   hours.
   Phenylephrine dose down slightly from yesterday.
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2100-12-19**] 08:04 AM
   Infusions:
   Phenylephrine - 0.8 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2100-12-19**] 08:05 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-12-19**] 12:07 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.8
   HR: 106 (82 - 155) bpm
   BP: 74/35(48) {66/35(48) - 127/105(109)} mmHg
   RR: 19 (14 - 24) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 113 kg (admission): 139 kg
   Height: 71 Inch
             Total In:
                                                                  2,667 mL
                                                                    548 mL
   PO:
                                                                    610 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  2,057 mL
                                                                    398 mL
   Blood products:
   Total out:
                                                                  3,454 mL
                                                                     20 mL
   Urine:
                                                                    140 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -787 mL
                                                                    528 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: 7.26/64/166/27/0
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, Rub, (Murmur: Systolic, No(t)
   Diastolic), Two systolic murmurs: [**Last Name (LF) **], [**First Name3 (LF) 10237**] shaped murmur at base;
   II/VI low pitched holo-systoloic murmur at right lower sternal border
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed), Bounding JVP
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , Crackles : scattered rales, No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 3+ edema, Left lower
   extremity edema: 3+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice, Venous stasis changes
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Not assessed
   Labs / Radiology
   8.8 g/dL
   155 K/uL
   113 mg/dL
   2.8 mg/dL
   27 mEq/L
   4.3 mEq/L
   34 mg/dL
   100 mEq/L
   134 mEq/L
   27.7 %
   10.1 K/uL
        [image002.jpg]
                            [**2100-12-17**]  09:25 PM
                            [**2100-12-17**]  09:36 PM
                            [**2100-12-18**]  03:30 AM
                            [**2100-12-18**]  03:46 AM
                            [**2100-12-18**]  11:57 AM
                            [**2100-12-18**]  12:19 PM
                            [**2100-12-18**]  11:06 PM
                            [**2100-12-18**]  11:33 PM
                            [**2100-12-19**]  05:26 AM
                            [**2100-12-19**]  05:49 AM
   WBC
   11.0
   10.1
   Hct
   29.3
   27.7
   Plt
   173
   155
   Cr
   1.9
   2.4
   2.7
   2.8
   TCO2
   30
   31
   31
   28
   30
   Glucose
   83
   113
   147
   162
   113
   Other labs: PT / PTT / INR:17.5/36.1/1.6, ALT / AST:[**11-4**], Alk Phos / T
   Bili:89/0.8, Differential-Neuts:77.0 %, Lymph:10.5 %, Mono:5.6 %,
   Eos:6.5 %, Lactic Acid:1.4 mmol/L, Albumin:3.6 g/dL, LDH:147 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 TACHYCARDIA, OTHER
 IMPAIRED SKIN INTEGRITY
 CIRRHOSIS OF LIVER, ALCOHOLIC
   HYPOTENSION
   =====================
   Patient more alert this AM. Suspect the rise in PaCO2 yesterday was
   related to sleep. Oxygen sats in mid-90's now without supplemental
   oxygen. I would aim now for 1-2L negative fluid balance with CVVH. Try
   to wean phenylephrine. If mental status okay, would tolerate BP 90
   systolic.
   Heart rate in 100-110 range in afib. Continue to monitor. Consider
   calcium blocker if needed to control rate.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2100-12-13**] 07:02 PM
   Arterial Line - [**2100-12-14**] 02:40 AM
   Dialysis Catheter - [**2100-12-14**] 01:26 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2100-12-20 11:47:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   55 yo man withe severe RV failure, ARF, admitted for new HD.  Unable to
   wean off neo yesterday.
   24 Hour Events:
                   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2100-12-19**] 08:04 AM
   Infusions:
   Phenylephrine - 0.7 mcg/Kg/min
   Other ICU medications:
   Other medications:
   lactulose
   rifaxamin
   sevalemer
   flovent
   vitamin D
   titropium
   prevacid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-12-20**] 11:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.9
C (98.4
   HR: 101 (93 - 127) bpm
   BP: 91/44(60) {48/36(41) - 103/92(115)} mmHg
   RR: 13 (13 - 43) insp/min
   SpO2: 90%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 113 kg (admission): 139 kg
   Height: 71 Inch
             Total In:
                                                                    896 mL
                                                                    183 mL
   PO:
                                                                    300 mL
             TF:
   IVF:
                                                                    596 mL
                                                                    183 mL
   Blood products:
   Total out:
                                                                    290 mL
                                                                     20 mL
   Urine:
                                                                     90 mL
                                                                     20 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                    606 mL
                                                                    163 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 90%
   ABG: 7.28/61/116/26/0
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   139 K/uL
   113 mg/dL
   3.6 mg/dL
   26 mEq/L
   4.3 mEq/L
   40 mg/dL
   101 mEq/L
   135 mEq/L
   27.5 %
   9.9 K/uL
        [image002.jpg]
                            [**2100-12-18**]  12:19 PM
                            [**2100-12-18**]  11:06 PM
                            [**2100-12-18**]  11:33 PM
                            [**2100-12-19**]  05:26 AM
                            [**2100-12-19**]  05:49 AM
                            [**2100-12-19**]  01:29 PM
                            [**2100-12-19**]  02:40 PM
                            [**2100-12-19**]  06:10 PM
                            [**2100-12-20**]  03:56 AM
                            [**2100-12-20**]  04:30 AM
   WBC
   10.1
   9.9
   Hct
   27.7
   27.9
   27.5
   Plt
   155
   139
   Cr
   2.7
   2.8
   3.6
   TCO2
   31
   28
   30
   27
   27
   30
   Glucose
   162
   113
   113
   Other labs: PT / PTT / INR:16.4/35.4/1.5, ALT / AST:[**11-4**], Alk Phos / T
   Bili:89/0.8, Differential-Neuts:77.0 %, Lymph:10.5 %, Mono:5.6 %,
   Eos:6.5 %, Lactic Acid:1.4 mmol/L, Albumin:3.6 g/dL, LDH:147 IU/L,
   Ca++:8.9 mg/dL, Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 TACHYCARDIA, OTHER
 IMPAIRED SKIN INTEGRITY
 CIRRHOSIS OF LIVER, ALCOHOLIC
   Respiratory failure:  Acute on chronic.  Overal improved.
   Fluid overload:  will take off some fluid with a paracentesis today.
   AFib:  HR better controlled currently.  Will try low dose PO dilt for
   HR control.  Continue dig qod dosing
   UTI:  finished course of cipro
   ARF:  to try intermittent HD starting tomorrow.
   Cirrhosis/encephalopathy:  lactulose/rifaxamin
   anemia.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2100-12-13**] 07:02 PM
   Arterial Line - [**2100-12-14**] 02:40 AM
   Dialysis Catheter - [**2100-12-14**] 01:26 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2100-12-21 11:42:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   56 yo man with RV failured, renal failure, chronic respiratory
   failure.  Had paracentesis yesterday -removed 8L.  Started on midodrine
   yesterday.  Has been off neosynephrine since 5:00AM
   24 Hour Events:
 PARACENTESIS - At [**2100-12-20**] 04:30 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2100-12-19**] 08:04 AM
   Infusions:
   Other ICU medications:
   Other medications:
   dig
   rifaxamin
   lactulose
   sevalemer
   MVI
   advair
   prevacid
   dilt
   midiodrine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-12-21**] 11:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.6
C (97.9
   HR: 91 (76 - 106) bpm
   BP: 94/44(58) {79/36(51) - 115/70(77)} mmHg
   RR: 24 (14 - 24) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 112 kg (admission): 139 kg
   Height: 71 Inch
           Total In:
                                                                    928 mL
                                                                    498 mL
   PO:
                                                                     90 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    467 mL
                                                                    109 mL
   Blood products:
                                                                    371 mL
                                                                     29 mL
   Total out:
                                                                  7,660 mL
                                                                     95 mL
   Urine:
                                                                    160 mL
                                                                     95 mL
   NG:
   Stool:
   Drains:
                                                                  7,500 mL
   Balance:
                                                                 -6,732 mL
                                                                    403 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.27/58/81.[**Numeric Identifier **]/24/-1
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), AFib
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   127 K/uL
   120 mg/dL
   4.2 mg/dL
   24 mEq/L
   4.7 mEq/L
   47 mg/dL
   99 mEq/L
   133 mEq/L
   26.2 %
   7.4 K/uL
        [image002.jpg]
                            [**2100-12-19**]  05:26 AM
                            [**2100-12-19**]  05:49 AM
                            [**2100-12-19**]  01:29 PM
                            [**2100-12-19**]  02:40 PM
                            [**2100-12-19**]  06:10 PM
                            [**2100-12-20**]  03:56 AM
                            [**2100-12-20**]  04:30 AM
                            [**2100-12-20**]  05:26 PM
                             [**2100-12-21**]  04:13 AM
                             [**2100-12-21**]  04:21 AM
   WBC
   10.1
   9.9
   7.4
   Hct
   27.7
   27.9
   27.5
   26.2
   Plt
   155
   139
   127
   Cr
   2.8
   3.6
   4.2
   TCO2
   30
   27
   27
   30
   28
   28
   Glucose
   113
   113
   120
   Other labs: PT / PTT / INR:15.1/35.0/1.3, ALT / AST:[**11-4**], Alk Phos / T
   Bili:89/0.8, Differential-Neuts:77.0 %, Lymph:10.5 %, Mono:5.6 %,
   Eos:6.5 %, Lactic Acid:1.0 mmol/L, Albumin:3.6 g/dL, LDH:147 IU/L,
   Ca++:9.1 mg/dL, Mg++:2.1 mg/dL, PO4:5.3 mg/dL
   Fluid analysis / Other labs: peritoneal fluid:  WBC 205.
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 TACHYCARDIA, OTHER
 IMPAIRED SKIN INTEGRITY
 CIRRHOSIS OF LIVER, ALCOHOLIC
   Acute on chronic renal failure: Plan for HD today off pressors.  Place
   order for IR guided tunnel catheter.
   respiratory failure:  More awake, breathing better.
   Cirrhosis:  will get RUQ U/S with hepatic vein doppler.  Consider one
   more tap tomorrow for another 8L.
   altered mental status:  overall improved
   acute on chronic RV failure:  much improved
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2100-12-13**] 07:02 PM
   Arterial Line - [**2100-12-14**] 02:40 AM
   Dialysis Catheter - [**2100-12-14**] 01:26 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes

2100-12-22 13:28:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   55 yo man with end stage right heart failure, renal failure, fluid
   overload, cirrhosis.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   dig
   rifaxamin
   lactulose (refusing)
   sevalemer
   fluconazole
   atrovent
   miconazole
   heparin s/q
   prevacid
   diltiazem
   midodrine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-12-22**] 01:27 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.5
   HR: 76 (71 - 91) bpm
   BP: 104/53(69) {86/42(56) - 113/58(74)} mmHg
   RR: 21 (6 - 23) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 112 kg (admission): 139 kg
   Height: 71 Inch
             Total In:
                                                                  1,281 mL
                                                                     52 mL
   PO:
                                                                  1,080 mL
             TF:
   IVF:
                                                                    172 mL
                                                                     52 mL
   Blood products:
                                                                     29 mL
   Total out:
                                                                    240 mL
                                                                     65 mL
   Urine:
                                                                    240 mL
                                                                     65 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,041 mL
                                                                    -13 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Bronchial: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   128 K/uL
   99 mg/dL
   4.9 mg/dL
   24 mEq/L
   5.3 mEq/L
   52 mg/dL
   100 mEq/L
   134 mEq/L
   28.0 %
   8.3 K/uL
        [image002.jpg]
                            [**2100-12-19**]  05:49 AM
                            [**2100-12-19**]  01:29 PM
                            [**2100-12-19**]  02:40 PM
                            [**2100-12-19**]  06:10 PM
                            [**2100-12-20**]  03:56 AM
                            [**2100-12-20**]  04:30 AM
                            [**2100-12-20**]  05:26 PM
                             [**2100-12-21**]  04:13 AM
                             [**2100-12-21**]  04:21 AM
                             [**2100-12-22**]  04:23 AM
   WBC
   9.9
   7.4
   8.3
   Hct
   27.9
   27.5
   26.2
   28.0
   Plt
   139
   127
   128
   Cr
   3.6
   4.2
   4.9
   TCO2
   30
   27
   27
   30
   28
   28
   Glucose
   113
   120
   99
   Other labs: PT / PTT / INR:14.5/35.8/1.3, ALT / AST:[**7-5**], Alk Phos / T
   Bili:79/0.9, Differential-Neuts:77.0 %, Lymph:10.5 %, Mono:5.6 %,
   Eos:6.5 %, Lactic Acid:1.0 mmol/L, Albumin:3.6 g/dL, LDH:147 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:6.2 mg/dL
   Imaging: U/S  cirrhotic liver normal hepatic vein flow.
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 TACHYCARDIA, OTHER
 IMPAIRED SKIN INTEGRITY
 CIRRHOSIS OF LIVER, ALCOHOLIC
   Renal failure:  To get dialysis again today.
   Cirrhosis:  ascites
   Acute on chronic RV failure.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2100-12-13**] 07:02 PM
   Arterial Line - [**2100-12-14**] 02:40 AM
   Dialysis Catheter - [**2100-12-14**] 01:26 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 35 minutes